US05686482
A 0.56 g portion of methyl 5-chloro-2,4-dimethoxybenzoate was dissolved in 5 ml of tetrahydrofuran, and 10 ml of 2N sodium hydroxide aqueous solution was added, followed by 4 hours of heating under reflux. After completion of the reaction, the reaction solution was poured into 1N hydrochloric acid aqueous solution, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 0.45 g of 5-chloro-2,4-dimethoxybenzoic acid.

reactant | methyl 5-chloro-2,4-dimethoxybenzoate | ClC=1C(=CC(=C(C(=O)OC)C1)OC)OC | C10H11ClO4
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-chloro-2,4-dimethoxybenzoic acid | 0.45 g | ClC=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9ClO4
